US05286734
A mixture of 1-[2-(2-naphtyl)ethyl]-4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine hydrochloride (5 g, 0.012 mol), 10% Pd/C (0.6 g) and 95% ethanol (130 ml) are charged into a hydrogenation reaction vessel and hydrogenated, under stirring, at 50° C. for 3 hours. The catalyst is then removed by filtration and the filtrate is concentrated to dryness. The residue is triturated with a small amount of diethyl ether and the white solid which is obtained therefrom by filtration is crystallised from absolute ethanol (120 ml) and dried affording 3.5 g (0.0083 mol) of 1-[2-(2-naphthyl)ethyl]-4-(3-trifluoromethylphenyl)piperidine hydrochloride. M.p. 296°-298° C.

reactant | 1-[2-(2-naphtyl)ethyl]-4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine hydrochloride | 0.012 mol, 5 g | Cl.C1=C(C=CC2=CC=CC=C12)CCN1CCC(=CC1)C1=CC(=CC=C1)C(F)(F)F
catalyst | Pd/C | 0.6 g | [Pd] | Pd
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | 1-[2-(2-naphthyl)ethyl]-4-(3-trifluoromethylphenyl)piperidine hydrochloride | 0.0083 mol, 3.5 g | Cl.C1=C(C=CC2=CC=CC=C12)CCN1CCC(CC1)C1=CC(=CC=C1)C(F)(F)F | InChI=1S/C24H24F3N.ClH/c25-24(26,27)23-7-3-6-22(17-23)20-11-14-28(15-12-20)13-10-18-8-9-19-4-1-2-5-21(19)16-18;/h1-9,16-17,20H,10-15H2;1H
